US07858623B2
A 16 mm sealed tube was charged with 3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)benzenamine (0.0740 g, 0.22 mmol), 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (0.094 g, 0.32 mmol), EDC (0.062 g, 0.32 mmol), HOBT (0.033 g, 0.22 mmol), Hunig's Base (0.13 ml, 0.76 mmol), and DMF (1.00 ml), sealed, and stirred at room temperature for 18 hours. LC/MS analysis indicated the presence of remaining 3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)benzenamine, so additional 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (0.031 g, 0.11 mmol) was added and the reaction mixture was stirred at 50° C. for 8 hours. The flask was allowed to cool to room temperature, the mixture was diluted with chloroform (25 mL), then washed with water (25 mL), sat. aq. NaHCO3 (25 mL), and brine (25 mL). The organic layer was dried with MgSO4, filtered, and concentrated in vacuo to yield a tan oil. The product was purified by silica gel chromatography eluting with 3% methanol in methylene chloride. The isolated yellow solid was triturated with EtOAc to yield N-(3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (0.035 g, 26% yield). MS (ESI pos. ion) m/z: 615 (MH+). Calc'd exact mass for C8H4ClNO2S: 614. 1H NMR (400 MHz, DMSO-d6) 11.00 (s, 1H), 8.68 (d, J=5.31 Hz, 1H), 8.49 (s, 1H), 7.96-8.04 (m, 1H), 7.43-7.60 (m, 4H), 7.35 (d, J=8.21 Hz, 3H), 6.89 (d, J=5.31 Hz, 1H), 4.84 (s, 1H), 3.87 (s, 2H), 2.80 (s, 3H), 2.46 (s, 3H), 0.96 (s, 6H).

reactant | 3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)benzenamine | 0.22 mmol, 0.0740 g | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2=NC(=NO2)C)N | C16H11FN4O2S
reactant | 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.32 mmol, 0.094 g | OC(CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)(C)C | C15H18N2O4
reactant | EDC | 0.32 mmol, 0.062 g
reactant | HOBT | 0.22 mmol, 0.033 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 0.76 mmol, 0.13 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.11 mmol, 0.031 g | OC(CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)(C)C | C15H18N2O4
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 1.00 ml | CN(C)C=O | C3H7NO
product | N-(3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.035 g, 26% yield | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2=NC(=NO2)C)NC(=O)C=2C(N(N(C2C)CC(C)(C)O)C2=CC=CC=C2)=O | C31H27FN6O5S
